US05380841
Periodic acid (14.73 g) is dissolved in water (162 ml) and is then slowly added to a stirred solution of 21-hydroxy-16α-methylpregna-4,9(11)-diene-3,20-dione (10.34 g) in methanol (675 ml) at 26°-28°. The reaction mixture is stirred for an additional hour at 20°-25° and then concentrated under reduced pressure with concurrent addition of water (1675 ml). The mixture is cooled and filtered to give 9.94 g of 16°-methylandrosta-4,9(11)-dien-3-one 17β-carboxylate.

reactant | Periodic acid | 14.73 g | I(=O)(=O)(=O)O | HIO4
reactant | 21-hydroxy-16α-methylpregna-4,9(11)-diene-3,20-dione | 10.34 g | OCC([C@H]1[C@@H](C[C@H]2[C@@H]3CCC4=CC(CC[C@]4(C)C3=CC[C@]12C)=O)C)=O | C22H30O3
reactant | methanol | 675 ml | CO | CH4O
solvent | water | 162 ml | O | H2O
product | methylandrosta-4,9(11)-dien-3-one 17β-carboxylate | COC(=O)[C@@H]1[C@]2(C)[C@@H](CC1)[C@@H]1CCC3=CC(CC[C@]3(C)C1=CC2)=O | C21H28O3
